US07700628B2
A. 3-tert-Butoxycarbonylamino-2,2-dimethylpropanol
To a solution of neopentanolamine (75 g, 728 mmol) and sodium carbonate (77.2 g, 728 mmol) in p-dioxane (1 L) and water (1 L) at 0° C. was added di-tert-butyl dicarbonate (175 g, 801 mmol). After stirring overnight, the solution was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was washed again with brine and then dried with MgSO4, filtered, and concentrated in vacuo to give 139 g (94%) of a thick, colorless syrup.

reactant | neopentanolamine | 728 mmol, 75 g | CC(C)(CN)CO | C5H13NO
reactant | sodium carbonate | 728 mmol, 77.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 801 mmol, 175 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | p-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | water | 1 L | O | H2O
product | 3-tert-Butoxycarbonylamino-2,2-dimethylpropanol | C(C)(C)(C)OC(=O)NCC(CO)(C)C | C10H21NO3
